US07495110B2
1-{2-[(1-hydroxy-2-phenylethyl)amino]ethyl}-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide
Lithium perchlorate (16 mg, 3 eq) then after 5 minutes 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide (25 mg, 1 eq) are added, at a temperature of approximately 20° C. to a solution of 2,3-epoxypropylbenzene (7 mg, 1 eq) in acetonitrile (0.5 ml). The mixture is heated under reflux for 24 hours then cooled down to ambient temperature and hydrogen carbonate and dichloromethane saturated water is added. After decanting and extracting, the organic phases are combined and washed with salt water, followed by drying over sodium sulphate and evaporating under reduced pressure at 40° C. Purification of the oil obtained by flash chromatography on silica gel (100% dichloromethane to dichloromethane/methanol 80:20) produces the expected compound in the form of an oil (31 mg, 55% yield)

reactant | Lithium perchlorate | 16 mg, 3 eq | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide | 25 mg, 1 eq | NCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C27H39N5O4
reactant | 2,3-epoxypropylbenzene | 7 mg, 1 eq | O1C(CC2=CC=CC=C2)C1 | C9H10O
reactant | hydrogen carbonate | C(O)([O-])=O
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-{2-[(1-hydroxy-2-phenylethyl)amino]ethyl}-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide | OC(CC1=CC=CC=C1)NCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C35H47N5O5
